US05464796
a) 4-(tert.-Butyloxycarbonylamino)-1,3-dioxo-1,3,3a,4,7,7a-hexahydroisoindole
48.0 g (0.5 mol) of maleimide are initially introduced into the reaction vessel as a solution in 200 ml of absolute tetrahydrofuran, and 120 g (0.5 mol) of approximately 70% strength 1-(tert.-butyloxycarbonylamino)-1,3-butadiene are added dropwise as a solution in 500 ml of absolute tetrahydrofuran, the temperature being kept at 20° to 30° C. The mixture is subsequently stirred overnight at room temperature. It is then concentrated and the residue is recrystallised from ethyl acetate. 57 g of product having a melting point of 177° to 182° C. are obtained. A further 13 g of melting point 158° to 160° C. are obtained from the mother liquor.

reactant | maleimide | 0.5 mol, 48.0 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | 1-(tert.-butyloxycarbonylamino)-1,3-butadiene | C(C)(C)(C)OC(=O)NC=CC=C | C9H15NO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 4-(tert.-Butyloxycarbonylamino)-1,3-dioxo-1,3,3a,4,7,7a-hexahydroisoindole | C(C)(C)(C)OC(=O)NC1C2C(NC(C2CC=C1)=O)=O | C13H18N2O4
